US09238639B2
Ethyl 3-(2-tert-butoxy-2-oxoethoxy)-6-((2,4-dichlorobenzyl)oxy)-1-benzothiophene-2-carboxylate
A mixture of t-butyl bromoacetate (0.736 mL), K2CO3 (0.626 g), ethyl 6-((2,4-dichlorobenzyl)oxy)-3-hydroxy-1-benzothiophene-2-carboxylate (1.8 g) and DMF (20 mL) was stirred at room temperature for 20 h. Water was added to the mixture and the mixture was extracted with EtOAc. The EtOAc extract was washed successively with water and brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (1.330 g). The obtained crystals were recrystallized from acetone-hexane.

reactant | t-butyl bromoacetate | 0.736 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | K2CO3 | 0.626 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 6-((2,4-dichlorobenzyl)oxy)-3-hydroxy-1-benzothiophene-2-carboxylate | 1.8 g | ClC1=C(COC2=CC3=C(C(=C(S3)C(=O)OCC)O)C=C2)C=CC(=C1)Cl | C18H14Cl2O4S
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | Ethyl 3-(2-tert-butoxy-2-oxoethoxy)-6-((2,4-dichlorobenzyl)oxy)-1-benzothiophene-2-carboxylate | 1.330 g | C(C)(C)(C)OC(COC1=C(SC2=C1C=CC(=C2)OCC2=C(C=C(C=C2)Cl)Cl)C(=O)OCC)=O | C24H24Cl2O6S
